US05721264
N-[1-(2-phenylethyl)-5-(n-butylamino)-4-ethoxycarbonylpyrazol-3-yl]-N-[(2'-(N-triphenylmethyl-(1H-tetrazol-5-yl))biphenyl-4-yl)methyl]-n-propylamine
30 mg of reduced copper, 20 mg of copper(II) oxide, 83 mg of potassium carbonate and 5 ml of n-butylamine were added to 216 mg of N-[1-(2-phenylethyl)-5-bromo-4-ethoxycarbonylpyrazol-3-yl]-N-[(2'-(N-triphenylmethyl-(1H-tetrazol-5-yl))biphenyl-4-yl)methyl]-n-propylamine, and heated under reflux for 14 hours. The reaction solution was filtered through Celite, and the filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (n-hexane-ethyl acetate=7:1) to obtain 92 mg of the intended compound as a pale yellow, amorphous solid.

reactant | potassium carbonate | 83 mg | C([O-])([O-])=O.[K+].[K+]
reactant | n-butylamine | 5 ml | C(CCC)N | C4H11N
reactant | N-[1-(2-phenylethyl)-5-bromo-4-ethoxycarbonylpyrazol-3-yl]-N-[(2'-(N-triphenylmethyl-(1H-tetrazol-5-yl))biphenyl-4-yl)methyl]-n-propylamine | 216 mg | C1(=CC=CC=C1)CCN1N=C(C(=C1Br)C(=O)OCC)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC | C50H46BrN7O2
catalyst | copper(II) oxide | 20 mg | [Cu]=O
product | N-[1-(2-phenylethyl)-5-(n-butylamino)-4-ethoxycarbonylpyrazol-3-yl]-N-[(2'-(N-triphenylmethyl-(1H-tetrazol-5-yl))biphenyl-4-yl)methyl]-n-propylamine | 92 mg | C1(=CC=CC=C1)CCN1N=C(C(=C1NCCCC)C(=O)OCC)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC | C54H56N8O2
